US05464929
Preparation of 3,6-Dioxaoctanedioic acid dimethylester
Esterification of the crude 3,6-dioxaoctanedioic acid was accomplished as follows: To the reaction flask containing 36 g of the crude diacid, was added 110 ml of methanol. This was stirred for 3 days at room temperature after which 15 g of sodium bicarbonate was added and stirred overnight. The mixture was filtered to remove solids. To the liquor was added an additional 10 g of sodium bicarbonate; this mixture was stirred overnight. The mixture was again filtered; the liquor was fractionally distilled.

reactant | 3,6-dioxaoctanedioic acid | C(COCCOCC(=O)O)(=O)O | C6H10O6
reactant | sodium bicarbonate | 15 g | C([O-])(O)=O.[Na+]
reactant | methanol | 110 ml | CO | CH4O
product | 3,6-Dioxaoctanedioic acid dimethylester | COC(COCCOCC(=O)OC)=O | C8H14O6
